* C:\Users\Christiaan\Documents\Visual Studio 2017\Projects\Arduino\Arduino_BatteryCharger\Schematics_NEW.asc
V1 N001 0 24
V2 N006 0 PULSE(0 5 0 0 0 0.6e-3 1e-3) AC 1
R1 N007 N006 98k
R5 N004 0 6.8
D1 N002 N003 D
V3 N001 N002 PULSE(10 12 0 5 0 6) Rser=2.5
M1 N003 N005 N004 N004 IRF530
C1 N007 0 184e-9
C2 N008 0 188e-9
R2 N008 N007 98k
XU1 N008 N004 N001 0 N005 LT1001
C3 N001 0 96e-9
C4 N001 0 100e-6
R6 N005 0 10k
C5 N004 0 220e-6
R3 N002 N009 98k
R4 N009 0 21k
C6 N009 0 3.3e-6
.model D D
.lib C:\Users\Christiaan\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Christiaan\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 6
.lib LTC.lib
.backanno
.end
